US04761502
In a two liter three necked flask equipped with mechanical stirrer, refluxing condenser and thermometer was added 322.2 gms (2.0 moles) of 3-aminobenzotrifluoride, 500 ml of ethoxyethanol solvent and 442.0 gms (4 moles) 1-chloro-2,3-propanediol. While this mixture was cooling, 205 gms (2.36 moles) of sodium carbonate was added keeping the temperature below 35° C. The mixture was then heated to reflux for 24 hours. Afterwards, the crude reaction mixture was filtered from the salt by-product. The salt was then washed several times with chloroform and these washings were combined with the filtrate. The solvent and chloroform was then removed under low vacuum and high vacuum to give 450.5 gms of the crude bis-2,3-dihydroxypropyl-3-aminobenzotrifluoride as a viscous dark oil.

reactant | 3-aminobenzotrifluoride | 2.0 moles, 322.2 gms | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | 1-chloro-2,3-propanediol | 4 moles, 442.0 gms | ClCC(CO)O | C3H7ClO2
reactant | sodium carbonate | 2.36 moles, 205 gms | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethoxyethanol | 500 ml | C(C)OC(C)O | C4H10O2
product | 2,3-dihydroxypropyl-3-aminobenzotrifluoride | OC(CC1=C(C=CC=C1N)C(F)(F)F)CO | C10H12F3NO2
